US08097759B2
N-[2-Chloro-5-(trifluoromethyl)phenyl]-2-hydroxy-5-nitrobenzamide (Compound No. 131)
Using 5-nitrosalicylic acid and 2-chloro-5-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-nitrosalicylic acid | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)O | C7H5NO5
reactant | 2-chloro-5-(trifluoromethyl)aniline | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
product | N-[2-Chloro-5-(trifluoromethyl)phenyl]-2-hydroxy-5-nitrobenzamide | Yield: 31.1% | ClC1=C(C=C(C=C1)C(F)(F)F)NC(C1=C(C=CC(=C1)[N+](=O)[O-])O)=O | C14H8ClF3N2O4
